US07202251B2
Step A. tert-Butyl (2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)acetate
To a stirred mixture of 2-hydroxybenzimidazole (4.00 g, 29.8 mmol) and tert-butyl bromoacetate (5.53 g, 28.3 mmol) in DM (50 mL) at 0° C. was added sodium hydride (1.31 g of a 60% dispersion in mineral oil, 32.8 mmol). The mixture was stirred at 0° C. for 1 h, then quenched with saturated aqueous NaHCO3 and concentrated in vacuo. The residue was partitioned between EtOAc (500 mL) and H2O (300 mL) and the organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude product was purified by silica gel chromatography, eluting with a gradient of CH2Cl2:EtOAc—100:0 to 0:100, to give the title compound. MS: m/z=249 (M+1).

reactant | 2-hydroxybenzimidazole | 29.8 mmol, 4.00 g | OC=1NC2=C(N1)C=CC=C2 | C7H6N2O
reactant | tert-butyl bromoacetate | 28.3 mmol, 5.53 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | sodium hydride | [H-].[Na+]
product | tert-Butyl (2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)acetate | O=C1NC2=C(N1CC(=O)OC(C)(C)C)C=CC=C2 | C13H16N2O3
